US06066639
A mixture of methyl 4-[2-(2-pivaloylamino-4-hydroxypyrido[2,3-d]pyrimidin-6-yl)ethynyl]-1-triisopropylsilylpyrrole-2-carboxylate (550 mg, 1.0 mmol) and 10% palladium-on-carbon (220 mg) in methanol (45 mL) was stirred overnight under hydrogen (50 psi). The reaction mixture was filtered through Celite and the filtrate concentrated in vacuo. The residue was dissolved in methylene chloride and filtered through a short silica gel column. The eluate was evaporated to give methyl 4-[2-(2-pivaloylamino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)ethyl]-1-triisopropylsilylpyrrole-2-carboxylate (524 mg, 94%). The analytical sample, mp 202-204° C., was obtained by column chromatography using chloroform:methanol (19:1): 1H NMR (CDCl3) δ 11.34 (br s, 1H), 7.85 (br s, 1H), 6.98 (s, 1H), 6.90 (s, 1H), 4.69 (s, 1H), 3.79 (s, 3H), 3.36 (br d, 1H, J=10.0 Hz), 2.99 (m, 1H), 2.83 (m, 1H), 2.59 (m, 2H), 2.12 (dd, 1H, J=15.6, 9.0 Hz), 1.90-1.50 (m, 6H), 1.30 (s, 9H), 1.11 (d, 18H, J=7.6 Hz).

reactant | methyl 4-[2-(2-pivaloylamino-4-hydroxypyrido[2,3-d]pyrimidin-6-yl)ethynyl]-1-triisopropylsilylpyrrole-2-carboxylate | 1.0 mmol, 550 mg | C(C(C)(C)C)(=O)NC=1N=C(C2=C(N1)N=CC(=C2)C#CC=2C=C(N(C2)[Si](C(C)C)(C(C)C)C(C)C)C(=O)OC)O | C29H39N5O4Si
solvent | methanol | 45 mL | CO | CH4O
catalyst | palladium-on-carbon | 220 mg | [Pd] | Pd
product | methyl 4-[2-(2-pivaloylamino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)ethyl]-1-triisopropylsilylpyrrole-2-carboxylate | 524 mg, 94% | C(C(C)(C)C)(=O)NC=1N=C(C2=C(N1)NCC(C2)CCC=2C=C(N(C2)[Si](C(C)C)(C(C)C)C(C)C)C(=O)OC)O | C29H47N5O4Si
